US08557834B2
N-[(1-Cyclohexyl-3-hexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine
Cyclohexyl isocyanate (635 uL, 5.0 mmoles) was added to a solution of n-hexylamine (660 uL, 5.0 mmoles) in dichloromethane (100 mL) and the mixture stirred for 1 hour. Malonyl dichloride (486 uL, 5.0 mmoles) was added and the mixture was heated to gentle reflux for 1 hour. The mixture was washed with 1 molar hydrochloric acid (×2), dried and evaporated. The residue was redissolved in dichloromethane (50 mL) and diisopropylethylamine (1.73 mL, 10 mmoles) and the mixture was treated with ethyl isocyanatoacetate (561 uL, 5.0 mmoles). After stirring overnight the mixture was washed with 1 molar hydrochloric acid, dried and evaporated. The residue was dissolved in ethanol (5 mL) and treated with 6 molar sodium hydroxide (2.0 mL). The mixture was stirred for 1 hour, acidified and extracted into ethyl acetate. The organic solution was washed with 1 molar hydrochloric acid, dried and evaporated to a brown oil. The crude material was stood in a freezer overnight in hexane to afford some solid. The liquors were concentrated and purified by preparative HPLC (acetonitrile-water-0.1% TFA) to give additional material which was combined with the previously obtained solid and recrystallized from ethanol-water to give the title compound (480 mg, 24%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.09 (br. s., 1 H), 10.15 (t, J=5.56 Hz, 1 H), 4.53-4.73 (m, 1 H), 4.05-4.18 (m, 2 H), 3.78 (t, 2 H), 2.16-2.36 (m, 2 H), 1.79 (d, J=12.38 Hz, 2 H), 1.42-1.71 (m, 5 H), 1.26 (s, 8 H), 1.03-1.19 (m, 1 H), 0.79-0.92 (m, 3 H).

reactant | Cyclohexyl isocyanate | 5.0 mmoles, 635 uL | C1(CCCCC1)N=C=O | C7H11NO
reactant | n-hexylamine | 5.0 mmoles, 660 uL | C(CCCCC)N | C6H15N
reactant | Malonyl dichloride | 5.0 mmoles, 486 uL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | diisopropylethylamine | 10 mmoles, 1.73 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl isocyanatoacetate | 5.0 mmoles, 561 uL | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-[(1-Cyclohexyl-3-hexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine | 480 mg, 24% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)CCCCCC)=O | C19H29N3O6
